US09388161B2
A solution of lithium diisopropylamide (1.0 M in THF/hexanes) (1.25 mL, 1.25 mmol) was slowly added to a −78° C. solution of 1-benzyl-4-(4-bromo-1H-pyrazol-1-yl)piperidine (200 mg, 0.625 mmol) in THF (2.0 mL), and the reaction was allowed to stir at −78° C. for 1 hour. N-fluoro-N-(phenylsulfonyl)benzenesulfonamide (295 mg, 0.937 mmol) was added, and the reaction stirred for an additional 1 hour at −78° C. The reaction was quenched via the addition of saturated aqueous ammonium chloride (5 mL). The reaction was warmed to room temperature and concentrated in vacuo. Ethyl acetate (25 mL) was added, and the organic solution was washed with water (2×10 mL) and brine (10 mL). The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The crude product was purified directly via column chromatography on silica gel (Biotage 25 g column, gradient elution with 20-30% ethyl acetate in hexanes) to afford 1-benzyl-4-(4-bromo-5-fluoro-1H-pyrazol-1-yl)piperidine (53 mg, 25%) as a light yellow oil. MS (ESI, pos. ion) m/z 339 [M+H]+.

reactant | lithium diisopropylamide | 1.25 mmol, 1.0 M, 1.25 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-benzyl-4-(4-bromo-1H-pyrazol-1-yl)piperidine | 0.625 mmol, 200 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1N=CC(=C1)Br | C15H18BrN3
reactant | N-fluoro-N-(phenylsulfonyl)benzenesulfonamide | 0.937 mmol, 295 mg | FN(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10FNO4S2
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 1-benzyl-4-(4-bromo-5-fluoro-1H-pyrazol-1-yl)piperidine | 53 mg, 25% | C(C1=CC=CC=C1)N1CCC(CC1)N1N=CC(=C1F)Br | C15H17BrFN3
